US09278971B2
3-(Imidazo[1,2-a]pyridin-3-ylethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide
To a solution of 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide (0.11 g, 0.22 mmol.) in DMF (1 mL) in a sealed tube was added Pd[(PPh3)4](0.013 g, 0.011 mmol), CuI (3 mg, 0.016 mmol), diethylisopropylamine (0.057 mL, 0.33 mmol.), followed by 3-ethynylimidazo[1,2-a]pyridine (0.040 g, 0.28 mmol.). The mixture was purged with argon for 15 minutes, sealed and stirred at rt for 28 h. The solvent was concentrated and the residue was taken up in methylene chloride (50 mL). The organic layer was washed with water, dried (Na2SO4) and evaporated to leave a brown residue which was purified by combiflash (hexane/ethyl acetate/methanol) to yield the desired material: MS (M+H)+ 500.

reactant | 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | 0.22 mmol, 0.11 g | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C19H15F3IN3O
reactant | diethylisopropylamine | 0.33 mmol, 0.057 mL | C(C)N(C(C)C)CC | C7H17N
reactant | 3-ethynylimidazo[1,2-a]pyridine | 0.28 mmol, 0.040 g | C(#C)C1=CN=C2N1C=CC=C2 | C9H6N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.016 mmol, 3 mg | [Cu]I
product | 3-(Imidazo[1,2-a]pyridin-3-ylethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | N=1C=C(N2C1C=CC=C2)C#CC=2C=C(C(=O)NC1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)C=CC2C | C28H20F3N5O
